US05559111
b) 4-Methoxy-3-(4-methoxy-2-butenyl)-bromobenzene
25 1.1 g of 3-methoxypropyltriphenylphosphonium bromide are added to a solution, stirred at 5°, of 110.8 g of sodium bis(trimethylsilyl)amide in 1200 ml of tetrahydrofuran. The reaction mixture is further stirred for 45 minutes at 0° and then a solution of 100 g of 5-bromo-o-anisaldehyde in 1000 ml of tetrahydrofuran is added dropwise thereto. The reaction mixture is stirred for a further 1 hour at 0°. Then, at 0° C., 1 liter of a saturated ammonium chloride solution is added dropwise. After concentration, the residue is extracted 4 times with ethyl acetate. The organic phases are washed with water and saturated sodium chloride solution and concentrated by evaporation. The residue is purified by FC (500 g of silica gel, hexane/ethyl acetate=5:1). Distillation under a high vacuum yields the title compound: Rf (hexane/ethyl acetate=4:1)=0.61.

reactant | 3-methoxypropyltriphenylphosphonium bromide | [Br-].COCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium bis(trimethylsilyl)amide | 110.8 g | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 5-bromo-o-anisaldehyde | 100 g | BrC1=CC=C(C(C=O)=C1)OC | C8H7BrO2
reactant | ammonium chloride | 1 liter | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
product | 4-Methoxy-3-(4-methoxy-2-butenyl)-bromobenzene | COC1=C(C=C(C=C1)Br)CC=CCOC | C12H15BrO2
